US04994493
3.4 ml of boron trifluoride etherate are added to a solution of 5.6 g of methyl 2-(3-phenylpropanoylamino)benzoate in 35 ml of anhydrous 1,2-dimethoxyethane. After cooling to 0° C., 3.4 g of sodium borohydride are added in portions, while stirring and cooling, and then the mixture is stirred at 60° C. for 45 hours and, after cooling, is poured onto ice-water. Extraction with ethyl acetate, evaporation off of the solvent and column chromatography of the residue as described under (a) provides methyl 2-(3-phenylpropylamino)benzoate.

reactant | boron trifluoride etherate | 3.4 ml | B(F)(F)F.CCOCC
reactant | methyl 2-(3-phenylpropanoylamino)benzoate | 5.6 g | C1(=CC=CC=C1)CCC(=O)NC1=C(C(=O)OC)C=CC=C1 | C17H17NO3
reactant | sodium borohydride | 3.4 g | [BH4-].[Na+]
solvent | 1,2-dimethoxyethane | 35 ml | COCCOC | C4H10O2
product | methyl 2-(3-phenylpropylamino)benzoate | C1(=CC=CC=C1)CCCNC1=C(C(=O)OC)C=CC=C1 | C17H19NO2
